US03975523
a. (C2H5)2N-CH(OCH3)2 (IIIb)
985 g of dimethyl sulfate were added to 790 g (7.8 moles) of N,N-diethylformamide while stirring, in the course of which the internal temperature rose to 40°C. After the batch had been stirred overnight, the mixture was allowed to run into 7.8 moles of sodium methylate in methanol (total volume approximately 2.3 l) at 0° to 5°C, while stirring, and the reaction mixture was again stirred overnight. The methanol was then distilled from the crystal paste. The desired product was subsequently distilled off up to a bath temperature of 170°C under 10 mm Hg, and was then fractionally distilled through a column. 862 g (75% of theory) of N,N-diethylformamide-dimethylacetal of boiling point 70°C/50 mm Hg (foaming) and of refractive index nD24 of 1.4074 were obtained.

reactant | dimethyl sulfate | 985 g | S(=O)(=O)(OC)OC | C2H6O4S
reactant | N,N-diethylformamide | 7.8 moles, 790 g | C(C)N(C=O)CC | C5H11NO
reactant | sodium methylate | 7.8 moles | C[O-].[Na+]
solvent | methanol | CO | CH4O
product | (C2H5)2N-CH(OCH3)2 | N(CC)(CC)C(OC)OC | C7H17NO2
